US07414076B2
Preparation of 3-piperonylamino-1-propanesulfonic acid (Compound AW)
To a solution of piperonylamine (2.5 mL, 19.8 mmol) in acetone (30 mL) was added 1,3-propane sultone (2.52 g, 20.8 mmol). The mixture stirred at reflux for 2 hours. The reaction mixture was cooled to room temperature. The solid material was collected by filtration, washed with acetone (2×25 mL) and dried in vacuo. The product was suspended in 90% Acetone/MeOH (75 mL). The suspension was stirred at reflux for 30 sec., the solid was collected by filtration and dried in vacuo. This allowed the isolation of compound AW, 2.56 g (45%).

reactant | piperonylamine | 19.8 mmol, 2.5 mL | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | 1,3-propane sultone | 20.8 mmol, 2.52 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 3-piperonylamino-1-propanesulfonic acid | C(C1=CC=2OCOC2C=C1)NCCCS(=O)(=O)O | C11H15NO5S
